.param SWSOA = 0
*******************************************************************************
*                                                                             *
* Library:      SG13G2_dev                                                    *
* Technologies: SG13G2                                                        *
*                                                                             *
* Model:        PSP 103.6                                                     *
* Revision:     200310                                                        *
*                                                                             *
*******************************************************************************
*                                                                             *
* Copyright 2023 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************
*******************************************************************************
*                                                                             *
*                                                                             *
*              C O M M O N    SG 13  M O S     M O D E L S                    *
*                                                                             *
*                                                                             *
*******************************************************************************
*
* NOTE: do not include this file directly in the netlist, use models.typ, .bcs or .wcs only
*
*
*
*******************************************************************************
* variable C section
*******************************************************************************


*******************************************************************************
* MOS transistor section
*******************************************************************************



* MOS-Subckt with D/S-overlap possibility
*
*       z1              z2            z1
*   ----------------------------------------
*   |          |   |         |   |         |
*   |    S     | G |   D     | G |    S    |  w/ng, >=0.15u
*   |          |   |         |   |         |
*   ----------------------------------------
*
*  z1=0.34u, z2=0.38u
*
* Parameters as,ad,ps,pd are calculated automatically, if <= 0
*
* NOTE:
* values are one-sigma deviations (1/3 of min-max)

.subckt sg13_lv_nmos d g s b
+ w=0.35u l=0.34u ng=1 m=1 mm_ok=1 as=0 ad=0 pd=0 ps=0 trise=0 z1=0.34e-6 z2=0.38e-6 wmin=0.15e-6 rfmode=0 pre_layout=1
* if as = 0, calculate value, else take it
* if as is given externally, no adjustment for ng is done! -> must be done in the extractor
* if ng>1 and as=0 (in schematic) recalculate!

.include sg13g2_moslv_parm.lib

.if (rfmode == 0)
    .if (as <= 1e-50)
        .if (floor(floor(ng/2+0.501)*2+0.001) != ng)
            Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp
              + w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, (mm_ok != 1 ? 0 : 1))' 
              + l='agauss(l, sg13g2_lv_nmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ad='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ps='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + pd='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_nmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_nmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .else
            Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp
              + w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
              + l='agauss(l, sg13g2_lv_nmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(2*z1+max(0,(ng-2)/2)*z2))/ng'
              + ad='max(w/ng,wmin)*z2/2'
              + ps='(2*(max(w/ng,wmin)*(2+max(ng-2,0)/2)+2*z1+max(ng-2,0)/2*z2))/ng'
              + pd='(max(w/ng,wmin)+z2)'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_nmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_nmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .endif
    .else
        Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp
          + w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
          + l='agauss(l, sg13g2_lv_nmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
          + as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' nf=1 mult='m*ng'
          + dta=trise
          + ngcon=2
          + delvto='agauss(0, sg13g2_lv_nmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
          + factuo='agauss(1, sg13g2_lv_nmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
    .endif
.else
    .if (as <= 1e-50)
        .if (floor(floor(ng/2+0.501)*2+0.001) != ng)
            Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp_rf
              + w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, (mm_ok != 1 ? 0 : 1))' 
              + l='agauss(l, sg13g2_lv_nmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ad='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ps='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + pd='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_nmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_nmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .else
            Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp_rf
              + w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
              + l='agauss(l, sg13g2_lv_nmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(2*z1+max(0,(ng-2)/2)*z2))/ng'
              + ad='max(w/ng,wmin)*z2/2'
              + ps='(2*(max(w/ng,wmin)*(2+max(ng-2,0)/2)+2*z1+max(ng-2,0)/2*z2))/ng'
              + pd='(max(w/ng,wmin)+z2)'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_nmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_nmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .endif
    .else
        Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp_rf
          + w='agauss(w/ng, sg13g2_lv_nmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
          + l='agauss(l, sg13g2_lv_nmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
          + as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' nf=1 mult='m*ng'
          + dta=trise
          + ngcon=2
          + delvto='agauss(0, sg13g2_lv_nmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
          + factuo='agauss(1, sg13g2_lv_nmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
    .endif
.endif
.ends

.subckt sg13_lv_pmos d g s b
+ w=0.35u l=0.28u ng=1 m=1 mm_ok=1 as=0 ad=0 pd=0 ps=0 trise=0 z1=0.34e-6 z2=0.38e-6 wmin=0.15e-6 rfmode=0 pre_layout=1

.include sg13g2_moslv_parm.lib

.if (rfmode == 0)
    .if (as <= 1e-50)
        .if (floor(floor(ng/2+0.501)*2+0.001) != ng)
            Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp
              + w='agauss(w/ng, sg13g2_lv_pmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
              + l='agauss(l, sg13g2_lv_pmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ad='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ps='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + pd='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_pmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_pmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .else
            Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp
              + w='agauss(w/ng, sg13g2_lv_pmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
              + l='agauss(l, sg13g2_lv_pmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(2*z1+max(0,(ng-2)/2)*z2))/ng'
              + ad='max(w/ng,wmin)*z2/2'
              + ps='(2*(max(w/ng,wmin)*(2+max(ng-2,0)/2)+2*z1+max(ng-2,0)/2*z2))/ng'
              + pd='(max(w/ng,wmin)+z2)'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_pmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_pmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .endif
    .else
        Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp
          + w='agauss(w/ng, sg13g2_lv_pmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
          + l='agauss(l, sg13g2_lv_pmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
          + as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' nf=1 mult='m*ng'
          + dta=trise
          + ngcon=2
          + delvto='agauss(0, sg13g2_lv_pmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
          + factuo='agauss(1, sg13g2_lv_pmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
    .endif
.else
    .if (as <= 1e-50)
        .if (floor(floor(ng/2+0.501)*2+0.001) != ng)
            Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp_rf
              + w='agauss(w/ng, sg13g2_lv_pmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
              + l='agauss(l, sg13g2_lv_pmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ad='(max(w/ng,wmin)*(z1+((ng-1)/2)*z2))/ng'
              + ps='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + pd='(2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2))/ng'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_pmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_pmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .else
            Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp_rf
              + w='agauss(w/ng, sg13g2_lv_pmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
              + l='agauss(l, sg13g2_lv_pmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
              + nf=1 mult='m*ng'
              + as='(max(w/ng,wmin)*(2*z1+max(0,(ng-2)/2)*z2))/ng'
              + ad='max(w/ng,wmin)*z2/2'
              + ps='(2*(max(w/ng,wmin)*(2+max(ng-2,0)/2)+2*z1+max(ng-2,0)/2*z2))/ng'
              + pd='(max(w/ng,wmin)+z2)'
              + dta=trise
              + ngcon=2
              + delvto='agauss(0, sg13g2_lv_pmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
              + factuo='agauss(1, sg13g2_lv_pmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
        .endif
    .else
        Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp_rf
          + w='agauss(w/ng, sg13g2_lv_pmos_dw_mm, (mm_ok != 1 ? 0 : 1))'
          + l='agauss(l, sg13g2_lv_pmos_dl_mm, (mm_ok != 1 ? 0 : 1))'
          + as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' nf=1 mult='m*ng'
          + dta=trise
          + ngcon=2
          + delvto='agauss(0, sg13g2_lv_pmos_delvto_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
          + factuo='agauss(1, sg13g2_lv_pmos_factuo_mm/sqrt(m*l*w*1e12), (mm_ok != 1 ? 0 : 1))'
    .endif
.endif
.ends

* ESD MOS Clamp devices
*****************************************************************
.subckt nmoscl_2  VDD VSS
+l=0.36u w=168u m=1 ng=1 trise=0  as = 58e-12  ad = 58e-12 pd = 336u ps = 336u rfmode=0 pre_layout=1

.include sg13g2_moslv_parm.lib

.if (rfmode == 0)
    Nsg13_lv_pmos VDD VSS VSS VSS nmoscl_psp w='w' l='l' nf='ng' as='as' ad='ad' pd='pd' ps='ps' mult='m'  dta=trise ngcon=2
.else
    Nsg13_lv_pmos VDD VSS VSS VSS nmoscl_psp_rf w='w' l='l' nf='ng' as='as' ad='ad' pd='pd' ps='ps' mult='m'  dta=trise ngcon=2
.endif
.ends nmoscl_2

.subckt nmoscl_4  VDD VSS
+ l=0.36u w=168u m=1 ng=1 trise=0 as = 114e-12  ad = 114e-12 pd = 672u ps = 672u rfmode=0 pre_layout=1
.include sg13g2_moslv_parm.lib

.if (rfmode == 0)
    Nsg13_lv_pmos VDD VSS VSS VSS nmoscl_psp w='w' l='l' nf='ng' as='as' ad='ad' pd='pd' ps='ps' mult='m'  dta=trise ngcon=2
.else
    Nsg13_lv_pmos VDD VSS VSS VSS nmoscl_psp_rf w='w' l='l' nf='ng' as='as' ad='ad' pd='pd' ps='ps' mult='m'  dta=trise ngcon=2
.endif
.ends nmoscl_4

*****************************************************************

